US09058935B2
A solution of methyldiphenylsulfonium tetrafluoroborate, [(CH3)(C6H5)2S][BF4], (4.50 g, 30.69 mmol), 100 mg, 0.347 mmol in acetonitrile (2 ml) and a solution of potassium methyltricyanoborate (50 mg, 0.347 mmol in acetonitril (2 ml) are combined and mixed. The salt potassium tetrafluoroborate is filtered at 0° C. and all volatile components are removed under reduced pressure resulting in the compound methyldiphenylsulfonium methyltricyanoborate.

reactant | methyldiphenylsulfonium tetrafluoroborate | F[B-](F)(F)F.C[S+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium methyltricyanoborate | C[B-](C#N)(C#N)C#N.[K+]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | acetonitril | 2 ml | C(C)#N | C2H3N
product | methyldiphenylsulfonium methyltricyanoborate | C[B-](C#N)(C#N)C#N.C[S+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C13H13S.C4H3BN3/c1-14(12-8-4-2-5-9-12)13-10-6-3-7-11-13;1-5(2-6,3-7)4-8/h2-11H,1H3;1H3/q+1;-1
